US07268230B2
A mixture of 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2R)-oxiran-2-ylmethoxy]quinazoline (200 mg, 0.506 mmol), (prepared as described for the starting material in Example 48), and 1,4-dioxa-8-azaspiro[4.5]decane (195 μl, 1.52 mmol) in DMF (3 ml) was stirred at 70° C. under argon for 3 hours. The volatiles were removed under vacuum and the residue was purified by column chromatography eluting with methylene chloride/methanol (95/5 followed by 90/10). The fractions containing the expected product were combined and evaporated to dryness. The residue was triturated with diethyl ether, filtered and dried under vacuum to give 7-{(2R)-3-[(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)]-2-hydroxypropoxy}-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline (190 mg, 70%).

reactant | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-[(2R)-oxiran-2-ylmethoxy]quinazoline | 0.506 mmol, 200 mg | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OC[C@@H]1OC1)C | C21H18FN3O4
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 1.52 mmol, 195 μl | O1CCOC12CCNCC2 | C7H13NO2
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 7-{(2R)-3-[(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)]-2-hydroxypropoxy}-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline | 190 mg, 70% | O1CCOC12CCN(CC2)C[C@H](COC2=C(C=C1C(=NC=NC1=C2)OC=2C(=C1C=C(NC1=CC2)C)F)OC)O | C28H31FN4O6
